US07459472B2
4-(5-Trifluoromethyl-pyridin-2-yloxy)-benzaldehyde was prepared from 4-fluorobenzaldehyde (2.48 g, 20 mmol) and 2-hydroxy-5-trifluoromethylpyridine (3.29 g, 20 mmol) following general procedure B. (4.62 g)

reactant | 4-fluorobenzaldehyde | 20 mmol, 2.48 g | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | 2-hydroxy-5-trifluoromethylpyridine | 20 mmol, 3.29 g | OC1=NC=C(C=C1)C(F)(F)F | C6H4F3NO
product | 4-(5-Trifluoromethyl-pyridin-2-yloxy)-benzaldehyde | FC(C=1C=CC(=NC1)OC1=CC=C(C=O)C=C1)(F)F | C13H8F3NO2
